2199-01-03 08:01:00 Physician Resident Progress Note
Chief Complaint: Chief Complaint: Lethargy
   Reason for MICU Admission: Transient hypotension; Wound care; Nursing
   requirements
   24 Hour Events:
 PICC LINE - START [**2199-1-3**] 01:54 AM
   No events.
   History obtained from Patient, Family / Friend
   [**Name (NI) **] unable to provide history: Encephalopathy
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ampicillin - [**2199-1-3**] 04:00 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Cardiovascular: No(t) Chest pain
   Respiratory: No(t) Dyspnea
   Gastrointestinal: Abdominal pain
   Flowsheet Data as of  [**2199-1-3**] 08:01 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**00**] AM
   Tmax: 37.4
C (99.3
   Tcurrent: 37.4
C (99.3
   HR: 98 (95 - 104) bpm
   BP: 108/54(68) {108/52(64) - 160/128(115)} mmHg
   RR: 22 (19 - 29) insp/min
   SpO2: 94%
   Heart rhythm: RBBB (Right Bundle Branch Block)
             Total In:
             606 mL
   PO:
             TF:
   IVF:
   606 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                    465 mL
   Urine:
   465 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                      0 mL
                                                                    141 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 94%
   ABG: 7.43/27/86.[**Numeric Identifier 253**]//-4
   Physical Examination
   General: Anxious, labile affect, no acute distress, morbidly obese,
   AOx2 new the year and season not the date. Perseverating on asking for
   water and complaining of thirst. MAE.
   HEENT: Sclera anicteric, MM very dry, oropharynx with dried exudate
   Neck: supple, unable to assess JVP
   Lungs: Distant breath sounds. Clear to auscultation anteriorly
   CV: Regular rate and rhythm, normal S1, fixed split S2, no murmurs,
   rubs, gallops
   Abdomen:  soft, obese, non-tender, non-distended, bowel sounds present,
   no rebound tenderness or guarding, no organomegaly.
   Ext: warm, [**11-24**]+ edema B/L with chronic venous stasis changes, no
   clubbing, cyanosis
   Skin: Right pannus and groin/thigh ulcers with foul smelling, purulent
   exudate and erythema; dsg with serosanguinous drainage. No eschars
   noted. Dressing clean, dry, and intact
   Neuro: Normal muscle bulk and tone. CN grossly intact
   Labs / Radiology
   4.6 mEq/L
   127 mEq/L
   36
        [image002.jpg]
                             [**2199-1-3**]  03:13 AM
   Hct
   36
   TCO2
   19
   Other labs: Lactic Acid:2.7 mmol/L
   Imaging: CXR AP [**2199-1-2**] My read: poor lung volumes, no obvious lung
   volumes.
   Microbiology: Blood cx x2 [**2199-1-2**] pending
   ECG: RBBB, low lead voltage
   Assessment and Plan
   55 year old female with morbid obesity and hypertension admitted to
   [**Hospital Unit Name 4**] with transient hypotension, lethargy and pressure ulcers now s/p
   debridement by plastics
   # Hypotension: Resolved for now. Patient transiently hypotensive in ED
   after morphine but remainder of SBPs in 110s-120s so likely related to
   meds as well as significant component of dehydration by labs and exam
   and underlying infection.
   - Continue IVF boluses
   - avoid morphine IV for now, use oxycodone and tylenol prn pain
   - ROMI
   - Advance diet and encourage PO intake
   # Pressure Ulcers: Patient has developed pressure ulcers from large
   pannus and immobility. Per plastics, did not seem particularly infected
   but will continue with antibiotics given leukocytosis and no other
   obvious source. Plastics recommends general surgery consult for
   debridement as risk of underlying bowel under the ulcers. They also
   recommend considering a CT abdomen to r/o underlying abscess,
   unfortunately this would be impossible at [**Hospital1 5**] as her extreme habitus
   would preclude fitting in the scanner.
   - General surgery consult
   - Appreciate plastics recommendations
   - continue vanco/unasyn for likely polymicrobial wound infection
   - check vanco trough prior to 4th dose
   - follow up blood cx
   - wound care per plastics: pack the wounds with moist to dry dressing
   changes with 0.25 dakins solution at least twice a day
   # ARF: Much improved to 1.3 after IVF. Cr elevated to 1.8 with unclear
   baseline. Urine lytes, BUN/Cr ratio, HCT all consistent with
   dehydration and prerenal etiology with urine Na<10. Received 4L IVF in
   ED and asking for water and complaining of thirst.
   - Continue IVF boluses.
   - Advance diet and encourage PO intake
   - consider renal U/S if remains elevated
   # Leukocytosis: Most likely etiology infected wounds and ulcers. CXR
   negative and UA contaminated but with only 0-2WBC and neg nitrate and
   leuk.
   - follow up blood and urine cx
   - continue to trend
   - repeat CXR
 wnl on my read
   # Altered Mental Status: Unclear baseline but patient clearly altered
   on exam although redirectable upon further questioning. Likely delirium
   from infectious process and dehydration. [**Month (only) 8**] also be component of
   hyppercarbia given obesity and RBBB, likely OSA and pulmonary
   hypertension. Meninigitis less likely given lack of fever and
   improvement with IVF
   - check ABG
 wnl
   - check TSH, B12
 wnl
   - continue IVF boluses
   - treat infection as above
   # Hyponatremia: Resolving after IVF. Likely hypovolemic given other
   findings as above
   - Continue IVF per above
   # Elevated lactate: Resolving after IVF. Likely secondary to
   dehydration given hyponatremia, elevated CK
   - Continue IVF per above
   # Elevated CK: Improving. Likely has low grade rhabdo secondary to
   prolonged immobilization.
   - Continue IVF per above
   .
   # Impaired glucose tolerance: No h/o Dm but likley has glucose
   intolerance.
   - FS QID and HISS
   FEN: IVF, replete electrolytes, regular diet
   Prophylaxis: Subutaneous heparin
 increase dose to 7500 SC TID and
   check a PTT
   Access: Power PICC which is now working
   Code:  Full for now per son but would like to discuss with patient's
   sister
   Communication: [**Name2 (NI) **], son [**Name (NI) 462**] [**Telephone/Fax (1) 11468**]
   [**Name2 (NI) **]osition: SW consult; pending clinical improvement
   ICU Care
   Nutrition:
   Glycemic Control: Regular insulin sliding scale
   Lines:
   PICC Line - [**2199-1-3**] 01:54 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: Not indicated
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full per son (pt still somewhat delerious)
   Disposition: ICU

2199-01-04 07:03:00 Physician Resident Progress Note
Chief Complaint: - no culture growth as of 16:30.
   - HBA1C was 6.7.
   - Plastics said turf to surgery.
   - SW consulted.
   - Psych saw patient: check TSH and RPR, start Celexa 10mg QAM. Increase
   to 20mg after several days if well tolerated.
   - Consider CPAP at night.
   - Folate, vitamin C, niacin all tested.
   - Echo ordered to eval for pulm htn, RV motion, etc.
   - Increased heparin to 7500 TID.
   24 Hour Events:
 BLOOD CULTURED - At [**2199-1-3**] 09:00 AM
 BLOOD CULTURED - At [**2199-1-3**] 11:00 AM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2199-1-3**] 08:30 PM
   Ampicillin/Sulbactam (Unasyn) - [**2199-1-4**] 04:19 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2199-1-3**] 04:00 PM
   Morphine Sulfate - [**2199-1-3**] 09:25 PM
   Labetalol - [**2199-1-4**] 04:10 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2199-1-4**] 07:03 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**00**] AM
   Tmax: 37.3
C (99.2
   Tcurrent: 37.2
C (99
   HR: 86 (77 - 121) bpm
   BP: 174/65(91) {123/46(67) - 199/87(113)} mmHg
   RR: 19 (16 - 28) insp/min
   SpO2: 90%
   Heart rhythm: RBBB (Right Bundle Branch Block)
   Wgt (current): 197 kg (admission): 190 kg
             Total In:
                                                                  4,637 mL
                                                                    100 mL
   PO:
                                                                    780 mL
             TF:
   IVF:
                                                                  3,857 mL
                                                                    100 mL
   Blood products:
   Total out:
                                                                  2,140 mL
                                                                    880 mL
   Urine:
                                                                  2,140 mL
                                                                    880 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,497 mL
                                                                   -780 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 90%
   ABG: ///23/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   513 K/uL
   9.5 g/dL
   98 mg/dL
   0.7 mg/dL
   23 mEq/L
   3.8 mEq/L
   52 mg/dL
   101 mEq/L
   136 mEq/L
   30.0 %
   14.7 K/uL
        [image002.jpg]
                             [**2199-1-3**]  03:13 AM
                             [**2199-1-3**]  07:40 AM
                             [**2199-1-3**]  05:48 PM
                             [**2199-1-4**]  03:19 AM
   WBC
   15.0
   14.7
   Hct
   36
   34.6
   29.6
   30.0
   Plt
   461
   513
   Cr
   1.3
   0.9
   0.7
   TropT
   0.01
   TCO2
   19
   Glucose
   115
   105
   98
   Other labs: CK / CKMB / Troponin-T:865/16/0.01, ALT / AST:34/43, Alk
   Phos / T Bili:77/0.4, Differential-Neuts:89.0 %, Band:0.0 %, Lymph:8.0
   %, Mono:3.0 %, Eos:0.0 %, Lactic Acid:2.7 mmol/L, Albumin:2.3 g/dL,
   LDH:269 IU/L, Ca++:8.4 mg/dL, Mg++:3.0 mg/dL, PO4:2.9 mg/dL
   Assessment and Plan
 CELLULITIS
 DECUBITUS ULCER (PRESENT AT ADMISSION)
 OBESITY (INCLUDING OVERWEIGHT, MORBID OBESITY)
 HYPOVOLEMIA (VOLUME DEPLETION - WITHOUT SHOCK)
 DEPRESSION
 .H/O DEPRESSION
 .H/O DECUBITUS ULCER (PRESENT AT ADMISSION)
 .H/O CELLULITIS
 ALTERATION IN NUTRITION
   55 year old female with morbid obesity and hypertension admitted to
   [**Hospital Unit Name 4**] with transient hypotension, lethargy and pressure ulcers now s/p
   debridement by plastics
   # Hypotension: Resolved for now. Patient transiently hypotensive in ED
   after morphine but remainder of SBPs in 110s-120s so likely related to
   meds as well as significant component of dehydration by labs and exam
   and underlying infection.
   - Continue IVF boluses
   - avoid morphine IV for now, use oxycodone and tylenol prn pain
   - ROMI
   - Advance diet and encourage PO intake
   # Pressure Ulcers: Patient has developed pressure ulcers from large
   pannus and immobility. Per plastics, did not seem particularly infected
   but will continue with antibiotics given leukocytosis and no other
   obvious source. Plastics recommends general surgery consult for
   debridement as risk of underlying bowel under the ulcers. They also
   recommend considering a CT abdomen to r/o underlying abscess,
   unfortunately this would be impossible at [**Hospital1 5**] as her extreme habitus
   would preclude fitting in the scanner.
   - General surgery consult
   - Appreciate plastics recommendations
   - continue vanco/unasyn for likely polymicrobial wound infection
   - check vanco trough prior to 4th dose
   - follow up blood cx
   - wound care per plastics: pack the wounds with moist to dry dressing
   changes with 0.25 dakins solution at least twice a day
   # ARF: Much improved to 1.3 after IVF. Cr elevated to 1.8 with unclear
   baseline. Urine lytes, BUN/Cr ratio, HCT all consistent with
   dehydration and prerenal etiology with urine Na<10. Received 4L IVF in
   ED and asking for water and complaining of thirst.
   - Continue IVF boluses.
   - Advance diet and encourage PO intake
   - consider renal U/S if remains elevated
   # Leukocytosis: Most likely etiology infected wounds and ulcers. CXR
   negative and UA contaminated but with only 0-2WBC and neg nitrate and
   leuk.
   - follow up blood and urine cx
   - continue to trend
   - repeat CXR
 wnl on my read
   # Altered Mental Status: Unclear baseline but patient clearly altered
   on exam although redirectable upon further questioning. Likely delirium
   from infectious process and dehydration. [**Month (only) 8**] also be component of
   hyppercarbia given obesity and RBBB, likely OSA and pulmonary
   hypertension. Meninigitis less likely given lack of fever and
   improvement with IVF
   - check ABG
 wnl
   - check TSH, B12
 wnl
   - continue IVF boluses
   - treat infection as above
   # Hyponatremia: Resolving after IVF. Likely hypovolemic given other
   findings as above
   - Continue IVF per above
   # Elevated lactate: Resolving after IVF. Likely secondary to
   dehydration given hyponatremia, elevated CK
   - Continue IVF per above
   # Elevated CK: Improving. Likely has low grade rhabdo secondary to
   prolonged immobilization.
   - Continue IVF per above
   .
   # Impaired glucose tolerance: No h/o Dm but likley has glucose
   intolerance.
   - FS QID and HISS
   FEN: IVF, replete electrolytes, regular diet
   Prophylaxis: Subutaneous heparin
 increase dose to 7500 SC TID and
   check a PTT
   Access: Power PICC which is now working
   Code:  Full for now per son but would like to discuss with patient's
   sister
   Communication: [**Name2 (NI) **], son [**Name (NI) 462**] [**Telephone/Fax (1) 11468**]
   [**Name2 (NI) **]osition: SW consult; pending clinical improvement
   ICU Care
   Nutrition:
   Glycemic Control: Regular insulin sliding scale
   Lines:
   PICC Line - [**2199-1-3**] 01:54 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: Not indicated
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full per son (pt still somewhat delerious)
   Disposition: ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2199-1-3**] 01:54 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2199-01-05 08:25:00 Physician Attending Progress Note
Chief Complaint: wounds
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Debrieded by plastics at the bedside
   Gen Surgery team deferred management to the Plastics team
   PICC placed
   Psych suggested increasing Celexa to 20 daily next week
   Echo done, c/w RH strain
   History obtained from Patient
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2199-1-3**] 08:30 PM
   Ampicillin/Sulbactam (Unasyn) - [**2199-1-5**] 04:04 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2199-1-4**] 11:44 PM
   Morphine Sulfate - [**2199-1-5**] 04:49 AM
   Other medications:
   Colace
 held
   Unasyn
   ISS
   Celexa 10
   Dakins solution
   Heparin 7500 TID
   Vanco 2 gm IV Q12
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2199-1-5**] 08:23 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**00**] AM
   Tmax: 37.2
C (98.9
   Tcurrent: 36.7
C (98
   HR: 86 (83 - 101) bpm
   BP: 144/56(74) {117/40(59) - 171/101(107)} mmHg
   RR: 15 (14 - 29) insp/min
   SpO2: 94%
   Heart rhythm: RBBB (Right Bundle Branch Block)
   Wgt (current): 197 kg (admission): 190 kg
   Height: 64 Inch
             Total In:
                                                                  1,020 mL
                                                                    384 mL
   PO:
                                                                    480 mL
                                                                    200 mL
   TF:
   IVF:
                                                                    340 mL
                                                                    184 mL
   Blood products:
   Total out:
                                                                  2,420 mL
                                                                    670 mL
   Urine:
                                                                  2,420 mL
                                                                    670 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,400 mL
                                                                   -286 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 94%
   ABG: ///25/
   Physical Examination
   Gen: awake, appropriate
   Chest: CTA anteriorly
   CV: RRR, no murmurs
   ABd: soft, NT  +BS
   Extr: warm, no edema
   Skin: necrotizing ulcers on R flank, dressings on
   Labs / Radiology
   9.3 g/dL
   501 K/uL
   103 mg/dL
   0.5 mg/dL
   25 mEq/L
   3.8 mEq/L
   23 mg/dL
   105 mEq/L
   138 mEq/L
   29.8 %
   14.2 K/uL
        [image002.jpg]
                             [**2199-1-3**]  03:13 AM
                             [**2199-1-3**]  07:40 AM
                             [**2199-1-3**]  05:48 PM
                             [**2199-1-4**]  03:19 AM
                             [**2199-1-5**]  03:06 AM
   WBC
   15.0
   14.7
   14.2
   Hct
   36
   34.6
   29.6
   30.0
   29.8
   Plt
   461
   513
   501
   Cr
   1.3
   0.9
   0.7
   0.5
   TropT
   0.01
   TCO2
   19
   Glucose
   115
   105
   98
   103
   Other labs: CK / CKMB / Troponin-T:865/16/0.01, ALT / AST:34/43, Alk
   Phos / T Bili:77/0.4, Differential-Neuts:89.0 %, Band:0.0 %, Lymph:8.0
   %, Mono:3.0 %, Eos:0.0 %, Lactic Acid:2.7 mmol/L, Albumin:2.3 g/dL,
   LDH:269 IU/L, Ca++:8.5 mg/dL, Mg++:2.8 mg/dL, PO4:2.1 mg/dL
   Vanco level: 12
   Micro: urine cx NG, blood cxs NGTD
   TTE:  The left atrium is mildly dilated. There is moderate symmetric
   left ventricular hypertrophy. The left ventricular cavity size is
   normal. Left ventricular systolic function is hyperdynamic (EF 70-80%).
   The right ventricular free wall is hypertrophied. The right ventricular
   cavity is dilated with normal free wall contractility. The aortic root
   is moderately dilated at the sinus level. The aortic valve leaflets are
   mildly thickened (?#). There is no aortic valve stenosis. Mild (1+)
   aortic regurgitation is seen. The mitral valve leaflets are mildly
   thickened. There is no mitral valve prolapse. There is zt least
   moderate pulmonary artery systolic hypertension.
   IMPRESSION: Suboptimal image quality. Dilated right ventricle; moderate
   (or more) pulmonary hypertension
   Assessment and Plan
   55 y o lady with morbid obesity and HTN, no recent medical care,
   admitted from home with FTT and somnolence, found to have extensive
   wound on L side of her body, in the ICU for nursing/wound care issues.
   1. Cellulitis: depth of ulcers unclear, secondary to large pannus and
   immobility. Concern for polymicrobial infection w/ leukocytosis
   currently on antibiotics. CT abdomen unable to be obtained due to large
   body habitus
   - Continue vanco/unasyn for likely polymicrobial wound infection
   - follow vanco levels
   - QOD wound debriedment with Plastics (next tomorrow)
   - TID dressing changes
   2.  Hypertension: was hypotensive in ED secondary to
   morphine/dehydration.  Hypertensive overnight likely secondary to pain,
   possibly essential hypertension.  Normal LV function on TTE.
   - Cont morphine/oxycodone/tylenol prn pain
   3. Pulmonary HTN: ?[**12-25**] OSA, off supplemental oxygen now.
   - Outpatient sleep study and other w/up
   4. ARF: Resolved w/ IVFs, CK down trending.
   5. Depression: RPR negative, TSH wnl.  Psychiatry following.  Started
   on Celexa.
   - Cont celexa 10, increase to 20 next week
   - Appreciate psych recs
   - SW consult
   6. Impaired glucose tolerance: No h/o Dm but likley has glucose
   intolerance.
   - FS QID and HISS
   ICU Care
   Nutrition:  heart-healthy diet
   Glycemic Control:
   Lines:
   PICC Line - [**2199-1-3**] 01:54 AM
   Prophylaxis:
   DVT:  heparin SQ
   Communication:  with patient and son
   [**Name (NI) 156**] status: Full code
   Disposition: stable for floor, high demand nursing needs
   Total time spent:  30 min CCT

2199-01-05 08:27:00 Physician Resident Progress Note
Chief Complaint: Chief Complaint: Lethargy
   Reason for MICU Admission: Transient hypotension; Wound care; Nursing
   requirements
   Source: History obtained from medical record and son
   24 Hour Events:
 TRANSTHORACIC ECHO - At [**2199-1-4**] 10:30 AM
   [**1-4**]
   - bedside debridment by plastics, and recommended tid dressing changes
   - unable to get in touch with gen [**Doctor First Name 91**]; per plastics case was discussed
   w/ gen [**Doctor First Name 91**] and agree pt poor operative candidate. plastics will
   continue bedside debridment
   - per psych increase celexa 20mg next week if stable
   - picc placed
   History obtained from Patient
   Allergies:
   History obtained from PatientNo Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2199-1-3**] 08:30 PM
   Ampicillin/Sulbactam (Unasyn) - [**2199-1-5**] 04:04 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2199-1-4**] 11:44 PM
   Morphine Sulfate - [**2199-1-5**] 04:49 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2199-1-5**] 08:26 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**00**] AM
   Tmax: 37.2
C (98.9
   Tcurrent: 36.7
C (98
   HR: 86 (83 - 101) bpm
   BP: 144/56(74) {117/40(59) - 171/101(107)} mmHg
   RR: 15 (14 - 29) insp/min
   SpO2: 94%
   Heart rhythm: RBBB (Right Bundle Branch Block)
   Wgt (current): 197 kg (admission): 190 kg
   Height: 64 Inch
             Total In:
                                                                  1,020 mL
                                                                    384 mL
   PO:
                                                                    480 mL
                                                                    200 mL
   TF:
   IVF:
                                                                    340 mL
                                                                    184 mL
   Blood products:
   Total out:
                                                                  2,420 mL
                                                                    670 mL
   Urine:
                                                                  2,420 mL
                                                                    670 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,400 mL
                                                                   -286 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 94%
   ABG: ///25/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   501 K/uL
   9.3 g/dL
   103 mg/dL
   0.5 mg/dL
   25 mEq/L
   3.8 mEq/L
   23 mg/dL
   105 mEq/L
   138 mEq/L
   29.8 %
   14.2 K/uL
        [image002.jpg]
                             [**2199-1-3**]  03:13 AM
                             [**2199-1-3**]  07:40 AM
                             [**2199-1-3**]  05:48 PM
                             [**2199-1-4**]  03:19 AM
                             [**2199-1-5**]  03:06 AM
   WBC
   15.0
   14.7
   14.2
   Hct
   36
   34.6
   29.6
   30.0
   29.8
   Plt
   461
   513
   501
   Cr
   1.3
   0.9
   0.7
   0.5
   TropT
   0.01
   TCO2
   19
   Glucose
   115
   105
   98
   103
   Other labs: CK / CKMB / Troponin-T:865/16/0.01, ALT / AST:34/43, Alk
   Phos / T Bili:77/0.4, Differential-Neuts:89.0 %, Band:0.0 %, Lymph:8.0
   %, Mono:3.0 %, Eos:0.0 %, Lactic Acid:2.7 mmol/L, Albumin:2.3 g/dL,
   LDH:269 IU/L, Ca++:8.5 mg/dL, Mg++:2.8 mg/dL, PO4:2.1 mg/dL
   Imaging: ECHO [**2199-1-4**]:
   The left atrium is mildly dilated. There is moderate symmetric left
   ventricular hypertrophy. The left ventricular cavity size is normal.
   Left ventricular systolic function is hyperdynamic (EF 70-80%). The
   right ventricular free wall is hypertrophied. The right ventricular
   cavity is dilated with normal free wall contractility. The aortic root
   is moderately dilated at the sinus level. The aortic valve leaflets are
   mildly thickened (?#). There is no aortic valve stenosis. Mild (1+)
   aortic regurgitation is seen. The mitral valve leaflets are mildly
   thickened. There is no mitral valve prolapse. There is zt least
   moderate pulmonary artery systolic hypertension.
   IMPRESSION: Suboptimal image quality. Dilated right ventricle; moderate
   (or more) pulmonary hypertension
   Microbiology: Blood cx from [**2199-1-3**], [**2199-1-4**]
   Assessment and Plan
 CELLULITIS
 DECUBITUS ULCER (PRESENT AT ADMISSION)
 OBESITY (INCLUDING OVERWEIGHT, MORBID OBESITY)
 HYPOVOLEMIA (VOLUME DEPLETION - WITHOUT SHOCK)
 DEPRESSION
 .H/O DEPRESSION
 .H/O DECUBITUS ULCER (PRESENT AT ADMISSION)
 .H/O CELLULITIS
 ALTERATION IN NUTRITION
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2199-1-3**] 01:54 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
   55 year old female with morbid obesity and hypertension admitted to
   [**Hospital Unit Name 4**] with transient hypotension, lethargy and pressure ulcers now s/p
   debridement by plastics
   # Necrotic pressure ulcers: Depth of ulcers unclear, secondary to large
   pannus and immobility. Concern for polymicrobial infection w/
   leukocytosis currently on antibiotics. CT abdomen unable to be obtained
   due to large body habitus
   - Will need to discuss w/ gen [**Doctor First Name 91**] re OR vs continued bed-side
   debridment.
   - Continue vanco/unasyn for likely polymicrobial wound infection
   - check vanco trough prior to 4th dose
   - Follow up blood cx
   - Continue wound
   # Hypertension: Was hypotensive in ED secondary to
   morphine/dehydration.  Hypertensive overnight likely secondary to pain,
   possibly essential hypertension.
   - Cont morphine/oxycodone/tylenol prn pain
   - Hold fluids
   - F/u echo
   # ARF: Resolved w/ IVFs, CK down trending.
   # Altered Mental Status: Improving per son.  Likely delirium secondary
   to infxn and dehydration. Also some element of depression.
   # Depression: RPR negative, TSH wnl.  Seen by psychiatry. Concern for
   neglect.
   - Cont celexa
   - Appreciate psych recs
   - SW
   # Hyponatremia: Resolving after IVF.
   # Elevated CK: Improving. Likely has low grade rhabdo secondary to
   prolonged immobilization.
   .
   # Impaired glucose tolerance: No h/o Dm but likley has glucose
   intolerance.
   - FS QID and HISS
   # Nutrition: Cont MVI, f/u niacin/folate levels
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2199-1-3**] 01:54 AM
   Prophylaxis:
   DVT:  SCH
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: pending surgery recs if OR will be transferred to [**Hospital Ward Name 2257**]
   ------ Protected Section ------
   MICU ATTENDING ADDENDUM
   I saw and examined the patient, and was physically present with the ICU
   team for the key portions of the services provided. I agree with the
   note above, including the assessment and plan. I would emphasize and
   add the following points: 55F morbidly obese woman p/w necrotic
   pressure ulcers, transient hypotension following morphine
   administration. Seen by psych, SW, general surgery.
   Exam notable for Tm 99.2 BP 160/60 HR 99 RR 18 with sat 100 on RA
   7.43/27/87. Morbidly obese, hirsuite woman, tearful. Distant BS. RRR
   s1s2. R flank necrosis c 20x20cm area of macerated soft tissue c deep
   tissue necrosis and drainage. 2+ edema. Labs notable for WBC 14K, HCT
   30, K+ 3.8, Cr 0.7. CXR with low volumes, ? increased PA diameter, EKG
   c RB3, low volts.
   Agree with plan to manage necrotizing soft tissue infection with wound
   care per plastics and gen [**Doctor First Name 91**]. Suspect she will need surgical
   debridement in the OR to clean out R flank wound - will coordinate care
   with general and plastic [**Doctor First Name 91**] teams. ARF improving with IVF. HISS for
   hyperglycemia, check A1C. SW / psych consults appreciated. HSC 7500
   TID, f/u PTT over w/e, ADAT, PICC. Remainder of plan as outlined above.
   Total time: 25 min
   ------ Protected Section Addendum Entered By:[**Name (NI) 103**] [**Last Name (NamePattern1) 749**], MD
   on:[**2199-1-4**] 04:56 PM ------

2199-01-06 07:58:00 Physician Attending Progress Note
Chief Complaint: pressure  wounds/cellulitis
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Has not been seen by Plastics yet today
   Continue with TID dressing changes
   Received morphine and oxycodone for pain
   History obtained from Patient
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ampicillin/Sulbactam (Unasyn) - [**2199-1-5**] 04:04 AM
   Vancomycin - [**2199-1-5**] 08:00 PM
   Ampicillin - [**2199-1-6**] 04:52 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2199-1-6**] 05:40 AM
   Morphine Sulfate - [**2199-1-6**] 05:40 AM
   Other medications:
   Vanco
   Unasyn
   Heparin
   MVI
   Celexa 10
   PRNs: Morphine IV, oxycodone
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
I am doing ok
   Flowsheet Data as of  [**2199-1-6**] 07:58 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**00**] AM
   Tmax: 37.3
C (99.1
   Tcurrent: 37.3
C (99.1
   HR: 88 (86 - 113) bpm
   BP: 173/47(74) {118/45(68) - 173/94(99)} mmHg
   RR: 18 (14 - 23) insp/min
   SpO2: 93%
   Heart rhythm: RBBB (Right Bundle Branch Block)
   Wgt (current): 197 kg (admission): 190 kg
   Height: 64 Inch
             Total In:
                                                                  2,720 mL
                                                                    300 mL
   PO:
                                                                  1,780 mL
                                                                    120 mL
   TF:
   IVF:
                                                                    940 mL
                                                                    180 mL
   Blood products:
   Total out:
                                                                  1,455 mL
                                                                    250 mL
   Urine:
                                                                  1,455 mL
                                                                    250 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,265 mL
                                                                     50 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 93%
   ABG: ///27/
   Physical Examination
   Gen: awake, conversant
   Chest: CTA anteriorly
   CV: RRR, no m
   Abd: soft, distant BS
   Extr: warm, no edema
   Skin: R flank wounds with dry gauze dressing
   Labs / Radiology
   9.8 g/dL
   434 K/uL
   103 mg/dL
   0.5 mg/dL
   27 mEq/L
   3.7 mEq/L
   11 mg/dL
   104 mEq/L
   141 mEq/L
   30.9 %
   14.0 K/uL
        [image002.jpg]
                             [**2199-1-3**]  03:13 AM
                             [**2199-1-3**]  07:40 AM
                             [**2199-1-3**]  05:48 PM
                             [**2199-1-4**]  03:19 AM
                             [**2199-1-5**]  03:06 AM
                             [**2199-1-6**]  04:37 AM
   WBC
   15.0
   14.7
   14.2
   14.0
   Hct
   36
   34.6
   29.6
   30.0
   29.8
   30.9
   Plt
   461
   513
   501
   434
   Cr
   1.3
   0.9
   0.7
   0.5
   0.5
   TropT
   0.01
   TCO2
   19
   Glucose
   115
   105
   98
   103
   103
   Other labs: PT / PTT / INR:13.9/25.4/1.2, CK / CKMB /
   Troponin-T:865/16/0.01, ALT / AST:34/43, Alk Phos / T Bili:77/0.4,
   Differential-Neuts:79.0 %, Band:5.0 %, Lymph:7.0 %, Mono:3.0 %, Eos:2.0
   %, Lactic Acid:2.7 mmol/L, Albumin:2.3 g/dL, LDH:269 IU/L, Ca++:8.4
   mg/dL, Mg++:2.3 mg/dL, PO4:1.8 mg/dL
   Vanco: 12.6 (from 21)
   Micro: blood cxs NGTD, urine Cx NG
   Assessment and Plan
   55 y o lady with morbid obesity and HTN, no recent medical care,
   admitted from home with FTT and somnolence, found to have extensive
   wound on L side of her body, in the ICU for nursing/wound care issues.
   1. Cellulitis: secondary to large pannus and immobility. Concern for
   polymicrobial infection w/ leukocytosis currently on antibiotics.
   Leukocytosis slowly improving, WBCs stable from yesterday.  CT abdomen
   unable to be obtained due to large body habitus.
   - Continue vanco/unasyn for likely polymicrobial wound infection
   - Follow vanco levels: recheck tomorrow
   - QOD wound debriedment with Plastics: to see patient again today.
   - TID dressing changes
   2.  Hypertension: was hypotensive in ED secondary to
   morphine/dehydration.  Hypertensive overnight likely secondary to pain,
   possibly essential hypertension.  Normal LV function on TTE.
   - Cont morphine/oxycodone/tylenol prn pain
   - Add BBL
   3. Pulmonary HTN: ?[**12-25**] OSA, off supplemental oxygen now.
   - Outpatient sleep study and other w/up
   4. ARF: Resolved w/ IVFs, CK trended down.
   5. Depression: RPR negative, TSH wnl.  Psychiatry following.  Started
   on Celexa on [**1-3**].
   - Cont celexa 10, increase to 20 on [**1-10**]
   - Appreciate psych recs
   - SW consult
   6. Impaired glucose tolerance: No h/o Dm but likley has glucose
   intolerance.
   - FS QID and HISS
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2199-1-3**] 01:54 AM
   Prophylaxis:
   DVT: heparin SC
   Stress ulcer:  not needed
   Communication:  Comments:
   Code status: Full code
   Disposition : floor ready, high nursing needs
   Patient is critically ill.
   Total time spent:  35 min CCT

2199-01-06 08:10:00 Physician Resident Progress Note
Chief Complaint:  skin wounds
   24 Hour Events:
 CALLED OUT
   -Pt called out but could not be sent to floor bc of high nursing needs
   -vanc was restarted for low trough
   -Pt with atrial irritibility went into brief run of SVT, with
   tachycardia and hypertension nursing believes pt would benefit from
   beta blockade
   History obtained from Patient
   Allergies:
   History obtained from PatientNo Known Drug Allergies
   Last dose of Antibiotics:
   Ampicillin/Sulbactam (Unasyn) - [**2199-1-5**] 04:04 AM
   Ampicillin - [**2199-1-6**] 04:52 AM
   Vancomycin - [**2199-1-6**] 07:55 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2199-1-6**] 05:40 AM
   Morphine Sulfate - [**2199-1-6**] 05:40 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2199-1-6**] 08:10 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**00**] AM
   Tmax: 37.3
C (99.1
   Tcurrent: 37.3
C (99.1
   HR: 88 (87 - 113) bpm
   BP: 173/47(74) {118/45(68) - 173/94(99)} mmHg
   RR: 18 (14 - 23) insp/min
   SpO2: 93%
   Heart rhythm: RBBB (Right Bundle Branch Block)
   Wgt (current): 197 kg (admission): 190 kg
   Height: 64 Inch
             Total In:
                                                                  2,720 mL
                                                                    501 mL
   PO:
                                                                  1,780 mL
                                                                    120 mL
   TF:
   IVF:
                                                                    940 mL
                                                                    381 mL
   Blood products:
   Total out:
                                                                  1,455 mL
                                                                    250 mL
   Urine:
                                                                  1,455 mL
                                                                    250 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,265 mL
                                                                    251 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 93%
   ABG: ///27/
   Physical Examination
   GEN alert, conversant, moribidly obese, hirsuitism
   CV: Distant heart sounds, no RMG
   PULM: CTAB, no RMG
   ABD: necrotic pannus w/ pus along right side,
   EXT: signs of venous stasis
   Labs / Radiology
   434 K/uL
   9.8 g/dL
   103 mg/dL
   0.5 mg/dL
   27 mEq/L
   3.7 mEq/L
   11 mg/dL
   104 mEq/L
   141 mEq/L
   30.9 %
   14.0 K/uL
        [image002.jpg]
                             [**2199-1-3**]  03:13 AM
                             [**2199-1-3**]  07:40 AM
                             [**2199-1-3**]  05:48 PM
                             [**2199-1-4**]  03:19 AM
                             [**2199-1-5**]  03:06 AM
                             [**2199-1-6**]  04:37 AM
   WBC
   15.0
   14.7
   14.2
   14.0
   Hct
   36
   34.6
   29.6
   30.0
   29.8
   30.9
   Plt
   461
   513
   501
   434
   Cr
   1.3
   0.9
   0.7
   0.5
   0.5
   TropT
   0.01
   TCO2
   19
   Glucose
   115
   105
   98
   103
   103
   Other labs: PT / PTT / INR:13.9/25.4/1.2, CK / CKMB /
   Troponin-T:865/16/0.01, ALT / AST:34/43, Alk Phos / T Bili:77/0.4,
   Differential-Neuts:79.0 %, Band:5.0 %, Lymph:7.0 %, Mono:3.0 %, Eos:2.0
   %, Lactic Acid:2.7 mmol/L, Albumin:2.3 g/dL, LDH:269 IU/L, Ca++:8.4
   mg/dL, Mg++:2.3 mg/dL, PO4:1.8 mg/dL
   Assessment and Plan
   55 year old female with morbid obesity and hypertension admitted to
   [**Hospital Unit Name 4**] with transient hypotension, lethargy and pressure ulcers now s/p
   debridement by plastics
   # Necrotic pressure ulcers: Depth of ulcers unclear, secondary to large
   pannus and immobility. Concern for polymicrobial infection w/
   leukocytosis currently on antibiotics. CT abdomen unable to be obtained
   due to large body habitus. Per plastics gen [**Doctor First Name 91**] will not see pt as not
   operative candidate and since plastics has been following they should
   continue with the debridement process.
   - Plastics to continue debridement QOD, with morphine PRN pain
   - Continue vanco/unasyn for likely polymicrobial wound infection
   - Recheck vanco trough
   - Follow up blood cx
   # Hypertension: Was hypotensive in ED secondary to
   morphine/dehydration.  Hypertensive overnight likely secondary to pain,
   possibly essential hypertension. Echo c/w RVH and RV dilation secondary
   likely to longstanding OSA.
   - Cont morphine/oxycodone/tylenol prn pain
   - Hold fluids
   - Outpatient sleep study
   # ARF: Resolved w/ IVFs, CK down trending.
   # Altered Mental Status: Improving per son.  Likely delirium secondary
   to infxn and dehydration. Also some element of depression.
   # Depression: RPR negative, TSH wnl.  Seen by psychiatry. Concern for
   neglect.
   - Cont celexa
   - Appreciate psych recs
   - SW
   # Hyponatremia: Resolving after IVF.
   # Elevated CK: Improving. Likely has low grade rhabdo secondary to
   prolonged immobilization.
   .
   # Impaired glucose tolerance: No h/o Dm but likley has glucose
   intolerance.
   - FS QID and HISS
   # Nutrition: Cont MVI, f/u niacin/folate levels
 CELLULITIS
 DECUBITUS ULCER (PRESENT AT ADMISSION)
 OBESITY (INCLUDING OVERWEIGHT, MORBID OBESITY)
 HYPOVOLEMIA (VOLUME DEPLETION - WITHOUT SHOCK)
 DEPRESSION
 .H/O DEPRESSION
 .H/O DECUBITUS ULCER (PRESENT AT ADMISSION)
 .H/O CELLULITIS
 ALTERATION IN NUTRITION
   ICU Care
   Nutrition: Regular/cardiac healthy
   Glycemic Control:  SSI
   Lines:
   PICC Line - [**2199-1-3**] 01:54 AM
   Prophylaxis:
   DVT:  SCH
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU for high level nursing requirements

2199-01-07 07:19:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 CALLED OUT
   -The patient will continue to be followed by plastics; however, she
   will be seen by the attending Dr. [**First Name (STitle) **]. He will come by [**1-7**] or [**1-8**]. He
   recommends to continue dressing changes [**Hospital1 **] and will debride as needed
   but not every day. She would also be able to continue this wound care
   at rehab. For any questions, call him on his cell [**Telephone/Fax (1) 11558**].
   -started on beta blocker for hypertension/tachycardia
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ampicillin - [**2199-1-6**] 04:32 PM
   Vancomycin - [**2199-1-6**] 07:24 PM
   Ampicillin/Sulbactam (Unasyn) - [**2199-1-7**] 04:00 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2199-1-7**] 06:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2199-1-7**] 07:17 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**00**] AM
   Tmax: 37.3
C (99.2
   Tcurrent: 37.1
C (98.8
   HR: 96 (86 - 103) bpm
   BP: 136/43(63) {81/40(52) - 173/77(94)} mmHg
   RR: 16 (14 - 22) insp/min
   SpO2: 92%
   Heart rhythm: RBBB (Right Bundle Branch Block)
   Wgt (current): 197 kg (admission): 190 kg
   Height: 64 Inch
             Total In:
                                                                  3,120 mL
                                                                    292 mL
   PO:
                                                                  1,080 mL
                                                                    120 mL
   TF:
   IVF:
                                                                  2,040 mL
                                                                    172 mL
   Blood products:
   Total out:
                                                                    880 mL
                                                                    215 mL
   Urine:
                                                                    880 mL
                                                                    215 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,240 mL
                                                                     77 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 92%
   ABG: ////
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   399 K/uL
   9.8 g/dL
   103 mg/dL
   0.5 mg/dL
   27 mEq/L
   3.7 mEq/L
   11 mg/dL
   104 mEq/L
   141 mEq/L
   31.2 %
   14.6 K/uL
        [image002.jpg]
                             [**2199-1-3**]  03:13 AM
                             [**2199-1-3**]  07:40 AM
                             [**2199-1-3**]  05:48 PM
                             [**2199-1-4**]  03:19 AM
                             [**2199-1-5**]  03:06 AM
                             [**2199-1-6**]  04:37 AM
                             [**2199-1-7**]  06:06 AM
   WBC
   15.0
   14.7
   14.2
   14.0
   14.6
   Hct
   36
   34.6
   29.6
   30.0
   29.8
   30.9
   31.2
   Plt
   461
   513
   501
   434
   399
   Cr
   1.3
   0.9
   0.7
   0.5
   0.5
   TropT
   0.01
   TCO2
   19
   Glucose
   115
   105
   98
   103
   103
   Other labs: PT / PTT / INR:14.4/25.8/1.2, CK / CKMB /
   Troponin-T:865/16/0.01, ALT / AST:34/43, Alk Phos / T Bili:77/0.4,
   Differential-Neuts:78.7 %, Band:5.0 %, Lymph:12.7 %, Mono:5.3 %,
   Eos:3.1 %, Lactic Acid:2.7 mmol/L, Albumin:2.3 g/dL, LDH:269 IU/L,
   Ca++:8.4 mg/dL, Mg++:2.3 mg/dL, PO4:1.8 mg/dL
   Imaging: Echo:
   The left atrium is mildly dilated. There is moderate symmetric left
   ventricular hypertrophy. The left ventricular cavity size is normal.
   Left ventricular systolic function is hyperdynamic (EF 70-80%). The
   right ventricular free wall is hypertrophied. The right ventricular
   cavity is dilated with normal free wall contractility. The aortic root
   is moderately dilated at the sinus level. The aortic valve leaflets are
   mildly thickened (?#). There is no aortic valve stenosis. Mild (1+)
   aortic regurgitation is seen. The mitral valve leaflets are mildly
   thickened. There is no mitral valve prolapse. There is zt least
   moderate pulmonary artery systolic hypertension.
   Assessment and Plan
 CELLULITIS
 DECUBITUS ULCER (PRESENT AT ADMISSION)
 OBESITY (INCLUDING OVERWEIGHT, MORBID OBESITY)
 HYPOVOLEMIA (VOLUME DEPLETION - WITHOUT SHOCK)
 DEPRESSION
 .H/O DEPRESSION
 .H/O DECUBITUS ULCER (PRESENT AT ADMISSION)
 .H/O CELLULITIS
 ALTERATION IN NUTRITION
   55 y o lady with morbid obesity and HTN, no recent medical care,
   admitted from home with FTT and somnolence, found to have extensive
   wound on L side of her body, in the ICU for nursing/wound care issues.
   1. Cellulitis: secondary to large pannus and immobility. Concern for
   polymicrobial infection w/ leukocytosis currently on antibiotics.
   Leukocytosis slowly improving, WBCs stable from yesterday.  CT abdomen
   unable to be obtained due to large body habitus.
   - Continue vanco/unasyn for likely polymicrobial wound infection
   - Follow vanco levels: recheck tomorrow
   - QOD wound debriedment with Plastics: to see patient again today.
   - TID dressing changes
   2.  Hypertension: was hypotensive in ED secondary to
   morphine/dehydration.  Hypertensive overnight likely secondary to pain,
   possibly essential hypertension.  Normal LV function on TTE.
   - Cont morphine/oxycodone/tylenol prn pain
   - Add BBL
   3. Pulmonary HTN: ?[**12-25**] OSA, off supplemental oxygen now.
   - Outpatient sleep study and other w/up
   4. ARF: Resolved w/ IVFs, CK trended down.
   5. Depression: RPR negative, TSH wnl.  Psychiatry following.  Started
   on Celexa on [**1-3**].
   - Cont celexa 10, increase to 20 on [**1-10**]
   - Appreciate psych recs
   - SW consult
   6. Impaired glucose tolerance: No h/o Dm but likley has glucose
   intolerance.
   - FS QID and HISS
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2199-1-3**] 01:54 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2199-01-07 08:28:00 Physician Attending Progress Note
Chief Complaint:  decubitus ulcers
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Seen by Plastics, continues on TID dressing changes
   No growth from cultures
   Awaiting floor bed
   History obtained from Patient
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ampicillin - [**2199-1-6**] 04:32 PM
   Vancomycin - [**2199-1-6**] 07:24 PM
   Ampicillin/Sulbactam (Unasyn) - [**2199-1-7**] 04:00 AM
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2199-1-7**] 06:00 AM
   Other medications:
   Colace
   Unasyn
   Vanco
   ISS
   Heparin TID
   MVI
   Celexa 10
   Dakins solution
   Metoprolol 25 PO BID
   Oxycodone 10 PO Q4
   Zinc
   Neutraphos
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems: feels ok, no pain at wound sites unless dressings
   changed
   Flowsheet Data as of  [**2199-1-7**] 08:28 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**00**] AM
   Tmax: 37.3
C (99.2
   Tcurrent: 35.8
C (96.5
   HR: 93 (86 - 103) bpm
   BP: 142/52(75) {81/40(52) - 171/77(94)} mmHg
   RR: 18 (14 - 22) insp/min
   SpO2: 93%
   Heart rhythm: RBBB (Right Bundle Branch Block)
   Wgt (current): 201 kg (admission): 190 kg
   Height: 64 Inch
             Total In:
                                                                  3,120 mL
                                                                    545 mL
   PO:
                                                                  1,080 mL
                                                                    360 mL
   TF:
   IVF:
                                                                  2,040 mL
                                                                    185 mL
   Blood products:
   Total out:
                                                                    880 mL
                                                                    310 mL
   Urine:
                                                                    880 mL
                                                                    310 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,240 mL
                                                                    235 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 93%
   ABG: ///28/
   Physical Examination
   Gen: nad, awake in bed
   Chest: CTA anteriorly
   CV: RRR, no murmurs, loud S2
   Abd: soft + BS
   Extr: warm, no edema
   Skin: wet dressings on R flank wounds
   Labs / Radiology
   9.8 g/dL
   399 K/uL
   103 mg/dL
   0.5 mg/dL
   28 mEq/L
   3.7 mEq/L
   9 mg/dL
   104 mEq/L
   141 mEq/L
   31.2 %
   14.6 K/uL
        [image002.jpg]
                             [**2199-1-3**]  03:13 AM
                             [**2199-1-3**]  07:40 AM
                             [**2199-1-3**]  05:48 PM
                             [**2199-1-4**]  03:19 AM
                             [**2199-1-5**]  03:06 AM
                             [**2199-1-6**]  04:37 AM
                             [**2199-1-7**]  06:06 AM
   WBC
   15.0
   14.7
   14.2
   14.0
   14.6
   Hct
   36
   34.6
   29.6
   30.0
   29.8
   30.9
   31.2
   Plt
   461
   513
   501
   434
   399
   Cr
   1.3
   0.9
   0.7
   0.5
   0.5
   0.5
   TropT
   0.01
   TCO2
   19
   Glucose
   115
   105
   98
   103
   103
   103
   Other labs: PT / PTT / INR:14.4/25.8/1.2, CK / CKMB /
   Troponin-T:865/16/0.01, ALT / AST:34/43, Alk Phos / T Bili:77/0.4,
   Differential-Neuts:78.7 %, Band:5.0 %, Lymph:12.7 %, Mono:5.3 %,
   Eos:3.1 %, Lactic Acid:2.7 mmol/L, Albumin:2.3 g/dL, LDH:269 IU/L,
   Ca++:8.0 mg/dL, Mg++:2.0 mg/dL, PO4:1.5 mg/dL
   Vanco: 16.4
   Micro: no growth from blood cultures
   Assessment and Plan
   55 y o lady with morbid obesity and HTN, no recent medical care,
   admitted from home with FTT and somnolence, found to have extensive
   wound on L side of her body, in the ICU for nursing/wound care issues.
   1. Cellulitis: secondary to large pannus and immobility. Concern for
   polymicrobial infection w/ leukocytosis currently on antibiotics.
   Leukocytosis stable from yesterday, improved from admission.  CT
   abdomen unable to be obtained due to large body habitus.
   - Continue vanco/unasyn for likely polymicrobial wound infection
   - Follow vanco levels: recheck tomorrow
   - QOD wound debriedment with Plastics: to see patient again today.
   - TID dressing changes, xeroform
   - add vitamin C and [**Last Name (un) 11567**] for wound healing
   2.  CV: was hypotensive in ED secondary to morphine/dehydration.  Then
   with HTN, ?[**12-25**] secondary to pain, possibly essential hypertension.
   Normal LV function on TTE.  Cardiac enzymes neg x 2 on admission.  Had
   SVT yest, resolved on BBL.
   - Continue BBL
   - Cont morphine/oxycodone/tylenol prn pain
   3. Pulmonary HTN: ?[**12-25**] OSA, off supplemental oxygen now.
   - Outpatient sleep study and other w/up
   4. ARF: Resolved w/ IVFs, CK trended down.
   5. Depression: RPR negative, TSH wnl.  Psychiatry following.  Started
   on Celexa on [**1-3**].
   - Cont celexa 10, increase to 20 on [**1-10**]
   - Appreciate psych recs
   6. Impaired glucose tolerance: No h/o Dm but likley has glucose
   intolerance.
   - FS QID and HISS
   ICU Care
   Nutrition:  PO diet
   Glycemic Control: ISS
   Lines:
   PICC Line - [**2199-1-3**] 01:54 AM
   Prophylaxis:
   DVT: heparin SC
   Communication:  with patient and son
   [**Name (NI) 156**] status: Full code
   Disposition: stable for floor
   Total time spent:  35 min CCT

2199-01-08 07:02:00 Physician Resident Progress Note
Chief Complaint: decubitus ulcers
   24 Hour Events:
   - Started on vitamin C and zinc for wound healing
   - Plastics evaluated patient today, added xeroform dressing, dakins tid
   History obtained from [**Hospital 19**] Medical records
   Allergies:
   History obtained from [**Hospital 19**] Medical recordsNo Known Drug Allergies
   Last dose of Antibiotics:
   Ampicillin - [**2199-1-6**] 04:32 PM
   Vancomycin - [**2199-1-7**] 07:48 PM
   Ampicillin/Sulbactam (Unasyn) - [**2199-1-8**] 04:21 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2199-1-7**] 10:13 PM
   Morphine Sulfate - [**2199-1-7**] 11:22 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Genitourinary: Foley
   Pain: [**3-28**] Moderate
   Pain location: pannus
   Flowsheet Data as of  [**2199-1-8**] 07:02 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**00**] AM
   Tmax: 37.4
C (99.3
   Tcurrent: 36.9
C (98.4
   HR: 111 (83 - 111) bpm
   BP: 152/68(89) {117/42(63) - 160/69(89)} mmHg
   RR: 15 (13 - 23) insp/min
   SpO2: 94%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 201 kg (admission): 190 kg
   Height: 64 Inch
             Total In:
                                                                  3,140 mL
                                                                    349 mL
   PO:
                                                                  1,800 mL
                                                                    180 mL
   TF:
   IVF:
                                                                  1,340 mL
                                                                    169 mL
   Blood products:
   Total out:
                                                                    887 mL
                                                                    265 mL
   Urine:
                                                                    887 mL
                                                                    265 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,253 mL
                                                                     84 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 94%
   ABG: ///29/
   Physical Examination
   General Appearance: Well nourished, Overweight / Obese
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   329 K/uL
   10.0 g/dL
   98 mg/dL
   0.5 mg/dL
   29 mEq/L
   3.6 mEq/L
   9 mg/dL
   103 mEq/L
   141 mEq/L
   30.7 %
   14.2 K/uL
        [image002.jpg] VANC 21
                             [**2199-1-3**]  03:13 AM
                             [**2199-1-3**]  07:40 AM
                             [**2199-1-3**]  05:48 PM
                             [**2199-1-4**]  03:19 AM
                             [**2199-1-5**]  03:06 AM
                             [**2199-1-6**]  04:37 AM
                             [**2199-1-7**]  06:06 AM
                             [**2199-1-8**]  06:04 AM
   WBC
   15.0
   14.7
   14.2
   14.0
   14.6
   14.2
   Hct
   36
   34.6
   29.6
   30.0
   29.8
   30.9
   31.2
   30.7
   Plt
   461
   513
   501
   [**Telephone/Fax (3) 11583**]
   Cr
   1.3
   0.9
   0.7
   0.5
   0.5
   0.5
   0.5
   TropT
   0.01
   TCO2
   19
   Glucose
   115
   105
   98
   103
   103
   103
   98
   Other labs: Ca++:7.8 mg/dL, Mg++:2.1 mg/dL, PO4:2.1 mg/dL
   Assessment and Plan
   55 y o lady with morbid obesity and HTN, no recent medical care,
   admitted from home with somnolence and pressure ulcers on L side of her
   body, in the ICU for nursing/wound care issues.
   1. Cellulitis/panniculitis:
   With necrotic ulcerations. Treating for polymicrobial infection with
   vanc/unasyn. WBC count stable. Blood cultures negative.
   - stop vanc as MRSa swab negative and pt stable
   - cont unasyn
   - debridement with Plastics prn
   - TID dressing changes, with dakins, xeroform
   - vitamin C and zinc for wound healing
   - standing oxycodone for pain (hold for sedation)
   2. Hypertension/tachycardia/SVT:
   - Cont pain control
   - increase metoprolol to TID
   3. Depression: RPR negative, TSH wnl.  Seen by psychiatry. Concern for
   neglect.
   - Cont celexa, increased to 20 on [**1-8**]
   - Appreciate psych recs
   - SW
   4. Pulmonary HTN: ?[**12-25**] OSA, off supplemental oxygen now.
   - Outpatient sleep study and other w/up
   - consider CPAP
   5. ARF: Resolved w/ IVFs.
   6. Altered Mental Status: Improved w/ treatment of infxn and
   dehydration.
   7. Impaired glucose tolerance: No h/o Dm but likley has glucose
   intolerance.
   - FS QID and HISS
   8. Nutrition: Cont MVI, started zinc/vitamin c.  f/u niacin/folate
   levels
   ICU Care
   Nutrition:  PO diet
   Glycemic Control: ISS
   Lines:
   PICC Line - [**2199-1-3**] 01:54 AM
   Prophylaxis:
   DVT: heparin SC
   Communication:  with patient and son
   [**Name (NI) 156**] status: Full code
   Disposition: stable for floor

2199-01-08 12:58:00 Physician Attending Progress Note
Chief Complaint: extensive cellulitis
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   55F morbid obesity and HTN, no recent medical care, admitted from home
   with FTT and somnolence, found to have extensive wound on L side of her
   body, in the ICU for nursing/wound care issues.
   24 Hour Events:
   no  events overnight
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ampicillin - [**2199-1-6**] 04:32 PM
   Vancomycin - [**2199-1-7**] 07:48 PM
   Ampicillin/Sulbactam (Unasyn) - [**2199-1-8**] 11:50 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2199-1-7**] 10:13 PM
   Morphine Sulfate - [**2199-1-7**] 11:22 PM
   Other medications:
   per [**Month (only) **] (reviewed)
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2199-1-8**] 12:46 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**00**] AM
   Tmax: 37.5
C (99.5
   Tcurrent: 37.5
C (99.5
   HR: 86 (83 - 111) bpm
   BP: 130/49(67) {117/47(67) - 160/69(89)} mmHg
   RR: 16 (13 - 21) insp/min
   SpO2: 92%
   Heart rhythm: RBBB (Right Bundle Branch Block)
   Wgt (current): 201 kg (admission): 190 kg
   Height: 64 Inch
             Total In:
                                                                  3,140 mL
                                                                    987 mL
   PO:
                                                                  1,800 mL
                                                                    660 mL
   TF:
   IVF:
                                                                  1,340 mL
                                                                    327 mL
   Blood products:
   Total out:
                                                                    887 mL
                                                                    497 mL
   Urine:
                                                                    887 mL
                                                                    497 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,253 mL
                                                                    490 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 92%
   ABG: ///29/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   10.0 g/dL
   329 K/uL
   98 mg/dL
   0.5 mg/dL
   29 mEq/L
   3.6 mEq/L
   9 mg/dL
   103 mEq/L
   141 mEq/L
   30.7 %
   14.2 K/uL
        [image002.jpg]
                             [**2199-1-3**]  03:13 AM
                             [**2199-1-3**]  07:40 AM
                             [**2199-1-3**]  05:48 PM
                             [**2199-1-4**]  03:19 AM
                             [**2199-1-5**]  03:06 AM
                             [**2199-1-6**]  04:37 AM
                             [**2199-1-7**]  06:06 AM
                             [**2199-1-8**]  06:04 AM
   WBC
   15.0
   14.7
   14.2
   14.0
   14.6
   14.2
   Hct
   36
   34.6
   29.6
   30.0
   29.8
   30.9
   31.2
   30.7
   Plt
   461
   513
   501
   [**Telephone/Fax (3) 11583**]
   Cr
   1.3
   0.9
   0.7
   0.5
   0.5
   0.5
   0.5
   TropT
   0.01
   TCO2
   19
   Glucose
   115
   105
   98
   103
   103
   103
   98
   Other labs: PT / PTT / INR:14.4/25.8/1.2, CK / CKMB /
   Troponin-T:865/16/0.01, ALT / AST:34/43, Alk Phos / T Bili:77/0.4,
   Differential-Neuts:78.7 %, Band:5.0 %, Lymph:12.7 %, Mono:5.3 %,
   Eos:3.1 %, Lactic Acid:2.7 mmol/L, Albumin:2.3 g/dL, LDH:269 IU/L,
   Ca++:7.8 mg/dL, Mg++:2.1 mg/dL, PO4:2.1 mg/dL
   Assessment and Plan
   # Cellulitis/panniculitis: secondary to large pannus and immobility.
   Concern for polymicrobial infection w/ leukocytosis currently on
   antibiotics. Leukocytosis stable from yesterday, improved from
   admission.  CT abdomen unable to be obtained due to large body habitus.
   - Continue unasyn for likely polymicrobial wound infection, would d/c
   vanco
   - QOD wound debriedment with Plastics: to see patient again today.
   - TID dressing changes, xeroform
   - Vitamin C and [**Last Name (un) 11567**] for wound healing
   # HTN/tachycardia--[**12-25**] secondary to pain, possibly essential
   hypertension.  Normal LV function on TTE.  Cardiac enzymes neg x 2 on
   admission.  Had SVT yest, resolved on BBL.
   - Continue BBL, uptitrate slowly
   - Cont morphine/oxycodone/tylenol prn pain and treat anxiety
   # Pulmonary HTN: ?[**12-25**] OSA, off supplemental oxygen now.
   - Outpatient sleep study and other w/up, consider auto-cpap at night
   # ARF: Resolved w/ IVFs, CK trended down. Good UOP
   # Depression and anxiety: RPR negative, TSH wnl.  Psychiatry
   following.
   - Cont celexa started [**1-3**]
   - Appreciate psych recs
   # Impaired glucose tolerance:
   - FS QID and HISS
   Remainder as per resident note
   ICU Care
   Nutrition: PO diet
   Glycemic Control:  Insulin infusion
   Lines:
   PICC Line - [**2199-1-3**] 01:54 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :stable for Transfer to floor, cont PT
   Total time spent: 40 minutes